US06855714B2
1-Cyclohexyl-6-[(5-(methoxycarbonyl)pentyl)oxy]-2-phenyl-benzimidazole is reacted according to general operating instructions 7 with isoamylamine. 1-Cyclohexyl-6-[(5-((3-methyl-butyl)aminocarbonyl)pentyl)oxy]-2-phenyl-benzimidazole is obtained as a solid.

reactant | 1-Cyclohexyl-6-[(5-(methoxycarbonyl)pentyl)oxy]-2-phenyl-benzimidazole | C1(CCCCC1)N1C(=NC2=C1C=C(C=C2)OCCCCCC(=O)OC)C2=CC=CC=C2 | C26H32N2O3
reactant | isoamylamine | C(CC(C)C)N | C5H13N
product | 1-Cyclohexyl-6-[(5-((3-methyl-butyl)aminocarbonyl)pentyl)oxy]-2-phenyl-benzimidazole | C1(CCCCC1)N1C(=NC2=C1C=C(C=C2)OCCCCCC(=O)NCCC(C)C)C2=CC=CC=C2 | C30H41N3O2
